US04788199
A mixture of 4-methyl-2-phenylquinazoline (15 g), N-bromosuccinimide (13.3 g) and benzoyl peroxide (1.65 g) in carbon tetrachloride (150 cc) is brought for 3 hours to 90° C. The mixture is filtered, the filtrate evaporated and the residue chromatographed on silica gel with a cyclohexane/ethyl acetate (9:1 by volume) mixture as eluant. 4-Bromomethyl-2-phenylquinazoline (11 g), m.p. 110° C., is obtained.

reactant | 4-methyl-2-phenylquinazoline | 15 g | CC1=NC(=NC2=CC=CC=C12)C1=CC=CC=C1 | C15H12N2
reactant | N-bromosuccinimide | 13.3 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 1.65 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 150 cc | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-Bromomethyl-2-phenylquinazoline | 11 g | BrCC1=NC(=NC2=CC=CC=C12)C1=CC=CC=C1 | C15H11BrN2
